US04766152
(a) Preparation of 4-(4-phenoxyphenyl)-2-butanone oxime
Over about 30 minutes, a freshly prepared solution of 15.3 g (0.22 mole) of hydroxylamine hydrochloride in 100 ml of water and 200 ml of 1N sodium hydroxide solution is added dropwise at room temperature to a solution of 48 g (0.2 mole) of 4-(4-phenoxyphenyl)-2-butanone*) in 500 ml of ethanol. Subsequently, the mixture is heated for 1.5 hours at reflux temperature and then stirred for 16 hours at room temperature. The ethanol is distilled off in a water jet vacuum and the residue is extracted repeatedly with ether. The combined ethereal phases are washed repeatedly with water and dried over sodium sulfate and the ther is distilled off entirely. The crude oxime is chromatographed over silica gel (eluant: a 1:1 mixture of diethyl ether and n-hexane). The resultant 4-(4-phenoxyphenyl)-2-butanone oxime melts at 80°-82° C. after recrystallisation in a mixture of diethyl ether and n-hexane.

reactant | hydroxylamine hydrochloride | 0.22 mole, 15.3 g | Cl.NO
reactant | 4-(4-phenoxyphenyl)-2-butanone | 0.2 mole, 48 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)CCC(C)=O | C16H16O2
solvent | water | 100 ml | O | H2O
solvent | sodium hydroxide | 1N, 200 ml | [OH-].[Na+]
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 4-(4-phenoxyphenyl)-2-butanone oxime | O(C1=CC=CC=C1)C1=CC=C(C=C1)CCC(C)=NO | C16H17NO2
